US08859586B2
Intermediate 15.4: (trans)-[4-(1-Hydroxy-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester
To the stirred solution of (trans)-(4-formyl-cyclohexyl)-carbamic acid tert-butyl ester (4.55 g, 20 mmol) in THF (250 ml) was added methylmagnesium bromide (3M in diethyl ether) (6.67 ml, 20 mmol) during 2 min at −70° C. Stirring was continued for 20 min at −70° C. and then quenched with 1M NH4Cl (200 ml). The mixture was extracted with TBME (2×). The organic phases were washed with brine and dried over Na2SO4, filtered and evaporated to dryness. Purification of the residue by normal phase column chromatography, eluting with EtOAc-heptane 1:1, gave the title compound after crystallization (diisopropyl ether-heptane) as a white solid (1.72 g, 7.0 mmol, 35%). TLC (EtOAc-heptane 1:1) Rf=0.37; 1H NMR (600 MHz, DMSO-d6): 0.86-1.81 (m, 9H), 0.99 (d, 3H), 1.36 (s, 9H), 3.09 (m, 1H), 3.32 (m, 1H), 4.27 (d, 1H), 6.67 (d, 1H)

reactant | (trans)-(4-formyl-cyclohexyl)-carbamic acid tert-butyl ester | 20 mmol, 4.55 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=O)=O | C12H21NO3
reactant | methylmagnesium bromide | 20 mmol, 3M, 6.67 ml | C[Mg]Br
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (trans)-[4-(1-Hydroxy-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(C)O)=O | C13H25NO3
